US05256673
4.68 g of methyl 1-benzenesulfonyl-3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-indole-5-carboxylate [obtainable from methyl 1-benzenesulfonyl-3-(4-chlorobutyl)-indole-5-carboxylate and 4-phenyl-1,2,3,6-tetrahydropyridine] are boiled with 1 g of KOH in 7 ml of water and 14 ml of ethanol for 16 hours, and the mixture is concentrated and worked up in the customary manner to give 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-indole-5-carboxylic acid, m.p. 284°-285°.

reactant | methyl 1-benzenesulfonyl-3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-indole-5-carboxylate | 4.68 g | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC(=CC=C12)C(=O)OC)CCCCN1CCC(=CC1)C1=CC=CC=C1 | C31H32N2O4S
reactant | KOH | 1 g | [OH-].[K+]
solvent | water | 7 ml | O | H2O
solvent | ethanol | 14 ml | C(C)O | C2H6O
product | 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-indole-5-carboxylic acid | C1(=CC=CC=C1)C=1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)C(=O)O | C24H26N2O2
